US05192758
Preparation of N-2-carbamoylethylimidazole
A stirred mixture of 3.4 g (49.9 mmoles) of imidazole, 3.55 g (49.9 mmoles) of acrylamide, and 7.6 g (49.9 mmoles) of 1,5-diazabicyclo[5.4.0]undec-5-ene (DBu) in 100 mL of sieve dried acetonitrile was heated at 80° C. under nitrogen for 2.0 hours. The mixture was let cool, where upon the product crystallized out of the solution.

reactant | imidazole | 49.9 mmoles, 3.4 g | N1C=NC=C1 | C3H4N2
reactant | acrylamide | 49.9 mmoles, 3.55 g | C(C=C)(=O)N | C3H5NO
reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | 49.9 mmoles, 7.6 g | N12CCCN=CC2CCCC1 | C9H16N2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-2-carbamoylethylimidazole | C(N)(=O)CCN1C=NC=C1 | C6H9N3O
